Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
left proximal humerus metastatic lesion with pathologic fracture
 
Major Surgical or Invasive Procedure:
Left proximal humerus resection with hemiarthroplasty 
reconstruction
 
History of Present Illness:
Ms. ___ is a ___ yo female who had a history of breast cancer 
in the past. She presented with a large destructive lesion in 
her proximal humerus on the left side. Needle biopsy 
demonstrated this to be consistent with
metastatic breast cancer. She had no other obvious evidence
of disease based on her repeat staging and based on that as
well as the amount of bone destruction our recommendation for 
treating this was for a resection of the proximal humerus and 
then reconstruction with a proximal
humerus replacement oncologic prosthesis. 
 
Past Medical History:
The patient reports no heart disease, heart murmurs, asthma, 
lung
disease, diabetes, gastrointestinal disease, hepatitis, kidney
disease, thyroid disease, anemia, seizures, depression or
psychiatric condition.  She does report that she has 
hypertension
for which she takes triamterene for.

PAST SURGICAL HISTORY:  Significant for lumpectomy in ___.

 
Social History:
___
Family History:
Significant for heart disease and
gastrointestinal problems.

 
Physical Exam:
VITAL SIGNS:  Height is 5 feet 4 inches.  She is ___ pounds. 
Blood pressure 136/84, pulse of 79.
GENERAL:  She is alert and oriented x3, in no apparent distress.
HEART:  She had a regular rate and rhythm with regular breath
excursions.
MUSCULOSKELETAL:  On physical exam, she had ___ motor strength
throughout on the right upper extremity.  Left upper extremity,
she had 4+ grip strength, wrist extension and flexion, as well 
as
interosseous muscles of the hand.  She had ___ elbow flexion and
extension.  She had ___ abduction of her left arm past 90
degrees, but had approximately ___ with abduction from 0 to 90. 
She was tender to palpation along the humerus as well as the
spine of the scapula.  She did seem to have an enlarged proximal
humerus.  Sensation was grossly intact to both upper extremities
bilaterally.  She had palpable radial pulses bilaterally.

 
Pertinent Results:
___ 03:21PM   WBC-10.2# RBC-3.53* HGB-10.5*# HCT-32.1* 
MCV-91 MCH-29.9 MCHC-32.8 RDW-13.2
___ 03:21PM   PLT COUNT-___ yo ___ admitted sameday surgery for left proximal humerus 
resection and hemiarthroplasty.  She tolerated the procedure 
well with preoperative regional anestheia.  She remained 
hemodynimically stable overnight and nearly pain free.  On POD#1 
she had an episode of hypotension/bradycardia and 
lightheadedness which resolved quickly without treatment.  
Medicine was consulted.  As a result cardiac enzymes were sent 
(negative x 3), EKG showed sinus rhythm with nonspecific T wave 
changes which were not different then preop, CXR showed mild 
pleural effusion but no other acute process, hemoglobin had 
decreased to 8.8 but remained stable.  She was placed on 
telemetry and was stable over the remainder of her 
hospitization.  Her pain was very well controlled on tylenol and 
hydromorphone after the peripheral block had worn off.

On POD#2 she remained stable.  She also had simulation for XRT.  
She was seen by OT and cleared for discharge to home.
 
Medications on Admission:
Triamterene-HCTZ
Hydromorphone
Multivitamin
 
Discharge Medications:
Triamterene-HCTZ
Hydromorphone 4mg PO every ___ hours prn pain
Multivitamin
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left proximal humerus lesion with pathologic fracture

 
Discharge Condition:
Stable

 
Discharge Instructions:
Sling at all times except for ___ clothing and shower.  
Clean axilla twice daily.  You may shower in three days.  You 
may remove outer dressing in ___ days, but leave steri-strips in 
place - they will fall off on their own.  Walk twice daily.  
Non-weight bearing left upper extremity.
 
Followup Instructions:
___